Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Ectopic pregnancy
 
Major Surgical or Invasive Procedure:
Laparoscopic right salpingectomy

 
History of Present Illness:
___ year old Gravida 4 para 1 with presumed ectopic pregnancy who
presents for surgical management following failure of 
methotrexate therapy. Patient LMP ___ and US documentation 
of possible 1.5cm gestational sac with yolk sac in right 
fallopian tube. Patient received the two dose methotrexate (MTX) 
regimen. MTX received on ___ and again on ___. Pt with rising 
HCG titers above 8000 despite therapy. Patient has been feeling 
well with no vaginal bleeding or abdominal pain. Last oral 
intake coffee at 4:30 ___.

Patient noted to have vasovagal episode in ED in setting of loss 
of consciousness. Patient reported feeling lightheaded and dizzy 
with tunnel vision
before. She has had similar symptoms in stressful situations in
past. Immediate return to consciousness and stable vital signs 
after
episode.
 
Past Medical History:
OB History
Spontaneous abortion x 2
Normal vaginal delivery x 1 of male, no complications

Gyn history: No history of sexually transmitted infections, no 
abnormal Pap test, lichen sclerosis

Past medical history: Denies

Past surgical history: Denies

 
Social History:
Denies tobacco/ethanol/drugs. 
 
Physical Exam:
Exam on Admission:
No acute distress, appears well
Regular rate and rhythm
Clear to auscultation bilaterally
Abdomen Soft, non tender, no guarding and no rebound
Vaginal exam deferred to OR

 
Pertinent Results:
Labs:
CBC--
___ 07:10PM BLOOD WBC-7.6# RBC-4.27 Hgb-13.3 Hct-37.6 
MCV-88 MCH-31.2 MCHC-35.4* RDW-12.2 Plt ___
___ 03:55AM BLOOD WBC-20.4*# RBC-3.96* Hgb-12.5 Hct-35.1* 
MCV-89 MCH-31.7 MCHC-35.7* RDW-12.3 Plt ___
___ 10:50AM BLOOD WBC-17.2* RBC-3.57* Hgb-12.2 Hct-32.2* 
MCV-90 MCH-33.9* MCHC-37.7* RDW-12.9 Plt ___
___ 03:40PM BLOOD WBC-13.2* RBC-3.52* Hgb-11.5* Hct-31.7* 
MCV-90 MCH-32.7* MCHC-36.3* RDW-12.8 Plt ___
___ 09:00AM BLOOD WBC-6.9 RBC-3.45* Hgb-10.9* Hct-31.0* 
MCV-90 MCH-31.5 MCHC-35.0 RDW-12.8 Plt ___
Chemistry-- 
___ 07:10PM BLOOD Glucose-92 UreaN-11 Creat-0.8 Na-137 
K-4.2 Cl-103 HCO3-22 AnGap-16

Findings per Operative Report:
A right 1.5-2cm interstitial ectopic which was
unruptured. Normal uterus. Normal right ovary with corpus 
luteum.
Left fallopian tube only partially visualized due to adhesions 
to
sigmoid and left pelvic sidewalls.

 
Brief Hospital Course:
Ms. ___ is a ___ year old female who was admitted to ___ and 
underwent a right salpingectomy for a right adnexal ectopic that 
failed methotrexate treatment. Please see the operative report 
for full details of the procedure. Please also see dictation by 
intra-operative consult with General Surgery. Post-operatively, 
she was admitted to the GYN service for observation.

Given an estimated blood loss of 300, Ms. ___ hematocrit 
was serially observed on POD#0 and 1. Although it trended 
downward, her hematocrit was stable at 31 prior to discharge. 
She was initially tachycardic in the low 100s which resolved 
after adequate IV hydration. Initially Ms. ___ pain was 
controlled with IV dilaudid. She was transitioned to oral pain 
medication once tolerating a diet. Her pain remained well 
controlled. Her diet was advanced without difficulty to a 
regular diet on POD#0. She was ambulating and voiding 
spontaneously prior to discharge. 
Ms. ___ was discharged home in stable condition on POD#1

 
Medications on Admission:
None
 
Discharge Medications:
1. oxycodone-acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO Q4H (every 4 hours) as needed for pain.
Disp:*40 Tablet(s)* Refills:*0*
2. ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) as needed for pain: Take with meals .
Disp:*40 Tablet(s)* Refills:*0*
3. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for constipation.
Disp:*30 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ectopic pregnancy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
General instructions:  
* Take your medications as prescribed.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol  
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs  
* No strenuous activity until your post-op appointment
* Nothing in the vagina (no tampons, no douching, no sex), no 
heavy lifting of objects >10lbs for ___ weeks.    
* You may eat a regular diet.  

Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.  
  
 
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  

 

 
Followup Instructions:
___